US04659846
292.3 g (2 mol) of 1,4; 3,6-dianhydrosorbitol and 800 ml of tert.-butanol were heated to 55° to 65° C. with stirring and then two separate dropping funnels were used to simultaneously add 572 g (7.14 mol) of aqueous 50% sodium hydroxide solution and 631 g (5 mol) of dimethyl sulfate dropwise at this temperature while keeping the reaction mixture always alkaline. The mixture was then stirred for three hours at about 60° C. and then most of the tert.-butanol was distilled off. The residue was mixed with 2,600 ml of water and the resulting solution was extracted three times with 500 ml portions of methylene chloride. The combined organic phases were dried over potassium carbonate and evaporated first at atmospheric pressure and then distilled under water jet vacuum to obtain 324 g (93% yield) of dimethyl isosorbide with a boiling point of 118° to 120° C. at 20 mbar.

reactant | 1,4; 3,6-dianhydrosorbitol | 2 mol, 292.3 g | C1[C@H]([C@@H]2[C@H](O1)[C@H](CO2)O)O | C6H10O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | 5 mol, 631 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | tert.-butanol | 800 ml | C(C)(C)(C)O | C4H10O
product | dimethyl isosorbide | 324 g, 93% yield | CO[C@@H]1CO[C@H]2[C@@H]1OC[C@@H]2OC | C8H14O4
